US09056859B2
To a solution of tert-butyl 4-[(E)-2-(1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethenyl]piperazine-1-carboxylate (1.1 g, 3 mmol) in 30 mL of DCM was added Pd(OAc)2 (100 mg) and was cooled by ice/water. 50 mL of newly prepared CH2N2 solution was added dropwise. The reaction was warmed to room temperature and stirred over night. The solid was filtered off, and the filtrate was evaporated at reduced pressure to get crude product, which was purified via prep-HPLC to afford tert-butyl 4-[2-(1-oxo-1,3-dihydro-2-benzofuran-5-yl)cyclopropyl]piperazine-1-carboxylate.

reactant | tert-butyl 4-[(E)-2-(1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethenyl]piperazine-1-carboxylate | 3 mmol, 1.1 g | O=C1OCC2=C1C=CC(=C2)/C=C/N2CCN(CC2)C(=O)OC(C)(C)C | C19H24N2O4
reactant | DCM | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd(OAc)2 | 100 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | tert-butyl 4-[2-(1-oxo-1,3-dihydro-2-benzofuran-5-yl)cyclopropyl]piperazine-1-carboxylate | O=C1OCC2=C1C=CC(=C2)C2C(C2)N2CCN(CC2)C(=O)OC(C)(C)C | C20H26N2O4
